US08604023B2
2-(tert-Butoxycarbonylamino)-4-(2-chlorophenyl)butanoic acid
In a glass bomb was placed trimethylsilyl-cyanide (2.65 g, 1.5 eq), zinc iodide (284 mg, 0.05 eq), 3-(2-chlorophenyl)propanal (3.00 g, 1 eq), and THF (32 mL). The mixture was stirred at room temperature for 15 minutes, then a 7 M solution of ammonia in methanol (51 mL, 20 eq) was added. The tube was sealed and heated to 60° C. for three hours. The solution was then concentrated, and hydrochloric acid (6 M, 5.93 mL, 30 eq) was added and the mixture was heated to reflux for 8 h. The mixture was then cooled to room temperature and slowly neutralized with aqueous sodium bicarbonate. Additional sodium bicarbonate was added (15 mL), followed by 1,4-dioxane (323 mL) and Boc anhydride (15.53 g, 4 eq). The reaction was stirred for another 4 h, and the mixture was partitioned with EtOAc 3×, discarding the organic layer each time. The pH was then carefully adjusted to 5 with HCl (2N) and the product was extracted into EtOAc 3×. The combined organic extracts were then washed with water, then brine, then dried over sodium sulfate and concentrated delivering a tan oil which was used further without purification (2.27 g, 41% yield). 1H-NMR (300 MHz, CDCl3) δ 7.35-7.29 (m, 2H), 7.24-7.10 (m, 3H), 6.97-6.88 (m, 1H), 5.15 (d, 1H), 4.35 (bs, 1H), 3.81 (s, 1H), 3.70 (s, 9H), 2.82 (t, 2H), 2.20 (bs, 1H), 1.95 (q, 1H), 1.46 (s, 9H).

reactant | trimethylsilyl-cyanide | 2.65 g, 1.5 eq | C[Si](C)(C)C#N | C4H9NSi
reactant | 3-(2-chlorophenyl)propanal | 3.00 g, 1 eq | ClC1=C(C=CC=C1)CCC=O | C9H9ClO
reactant | ammonia | N | H3N
reactant | methanol | 51 mL, 20 eq | CO | CH4O
reactant | hydrochloric acid | 6 M, 5.93 mL, 30 eq | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Boc anhydride | 15.53 g, 4 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | zinc iodide | 284 mg, 0.05 eq | [I-].[Zn+2].[I-]
solvent | 1,4-dioxane | 323 mL | O1CCOCC1 | C4H8O2
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 2-(tert-Butoxycarbonylamino)-4-(2-chlorophenyl)butanoic acid | 41% yield | C(C)(C)(C)OC(=O)NC(C(=O)O)CCC1=C(C=CC=C1)Cl | C15H20ClNO4
